US07816371B2
c. (R)-2-(3,4-Dichlorophenyl)-N-(2-(1-hydroxypropan-2-yl)-1-oxo-1,2-dihydroisoquinolin-5-yl)acetamide
To a solution of (R)-2-(5-amino-1-oxoisoquinolin-2(1H)-yl)propyl acetate (100 mg, 0.0004 mol) in methylene chloride (2 mL, 0.03 mol) was added 3,4-dichlorophenyl acetic acid (120 mg, 0.00058 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (360 mg, 0.00096 mol) and N,N-diisopropylethylamine (300 μL, 0.002 mol). The reaction mixture was stirred overnight at room temperature. The mixture was then purified by column chromatography using an ethyl acetate:hexane (0-40%) gradient. The combined pure fractions were reduced in vacuo and taken up in methanol (3 mL, 0.07 mol), potassium carbonate (200 mg, 0.001 mol) and a few drops of water were added, and the mixture was stirred at room temperature for one hour. This was followed by purification using column chromatography (ethyl acetate:hexane, 0-100%) thus producing the title compound.

reactant | (R)-2-(5-amino-1-oxoisoquinolin-2(1H)-yl)propyl acetate | 0.0004 mol, 100 mg | C(C)(=O)OC[C@@H](C)N1C(C2=CC=CC(=C2C=C1)N)=O | C14H16N2O3
reactant | methylene chloride | 0.03 mol, 2 mL | C(Cl)Cl | CH2Cl2
reactant | 3,4-dichlorophenyl acetic acid | 0.00058 mol, 120 mg | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.00096 mol, 360 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.002 mol, 300 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanol | 0.07 mol, 3 mL | CO | CH4O
reactant | potassium carbonate | 0.001 mol, 200 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | water | a few drops | O | H2O
product | (R)-2-(3,4-Dichlorophenyl)-N-(2-(1-hydroxypropan-2-yl)-1-oxo-1,2-dihydroisoquinolin-5-yl)acetamide | ClC=1C=C(C=CC1Cl)CC(=O)NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](CO)C | C20H18Cl2N2O3
